### PR TITLE
draft: non-terminal `simp` linter, with followers

### PR DESCRIPTION
**Pull request by adomani**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/NonTerminalSimp.lean [hunk 1]
```diff
@@ -0,0 +1,688 @@
...
+Copyright (c) 2024 Damiano Testa. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Damiano Testa
+-/
+import Lean.Elab.Command
+import Lean.Linter.Util
+import Std.Data.Array.Basic
+import Std.Data.List.Basic
+import Std.Data.Array.Merge
+import Mathlib.adomaniLeanUtils.inspect_syntax
```
Comment (adomani) [inline Mathlib/Tactic/NonTerminalSimp.lean:11]:
```suggestion
--import Mathlib.adomaniLeanUtils.inspect_syntax
```

File: Mathlib/Tactic/NonTerminalSimp.lean [hunk 2]
```diff
@@ -0,0 +1,688 @@
...
+
+open Lean Elab Command
+elab "get " cmd:command : command => do
+  let tcts := getTactics cmd
+--  logInfo m!"{tcts.map fun t => (t, getLocs t)}"
+  for tac in tcts do
+--    let locs := getLocs tac
+--    logInfoAt tac m!"may act on {locs.map getStained}"
+--    dbg_trace "{tac}:\nlocs: {getLocs tac}\n"
+    let _ ← (getLocs tac).mapM (Meta.inspect ·)
```
Comment (adomani) [inline Mathlib/Tactic/NonTerminalSimp.lean:322]:
```suggestion
--    let _ ← (getLocs tac).mapM (Meta.inspect ·)
```

File: Mathlib/Tactic/NonTerminalSimp.lean [hunk 3]
```diff
@@ -0,0 +1,688 @@
...
+--    let _ ← locs.flatten.mapM Meta.inspect
+--    let _ ← inspect locs[0]!
+--    logInfo m!"{locs}"
+    sloc tac
+  --Meta.inspect cmd
+  elabCommand cmd
+
+#eval show MetaM _ from do
+  IO.println star
+  Meta.inspect star
```
Comment (adomani) [inline Mathlib/Tactic/NonTerminalSimp.lean:341]:
```suggestion
--  Meta.inspect star
```

File: Mathlib/Tactic/NonTerminalSimp.lean [hunk 4]
```diff
@@ -0,0 +1,688 @@
...
+  try simp at n m h ⊢
+--  simp
+
+inspect
+--get
+example {n : Nat} : True := by
+  simp [] at n n n |-
+
+variable {n : Nat} (h : n + 0 = n) in
+inspect
```
Comment (adomani) [inline Mathlib/Tactic/NonTerminalSimp.lean:358]:
```suggestion
--inspect
```

File: Mathlib/Tactic/NonTerminalSimp.lean [hunk 5]
```diff
@@ -0,0 +1,688 @@
...
+
+get
+example {n m h : Nat} : True := by
+  refine ?_
+  rw [] at *
+  rw [] at n n n |-
+  try simp at n m h ⊢
+--  simp
+
+inspect
```
Comment (adomani) [inline Mathlib/Tactic/NonTerminalSimp.lean:352]:
```suggestion
--inspect
```
